US08217069B2
A mixture of ethyl 4-chloro-2-methoxypyrimidine-5-carboxylate (0.22 g), 2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyaniline hydrochloride (0.4 g) and N,N-diisopropylethylamine (0.37 mL) in acetonitrile (3 mL) was heated at reflux for 1.5 hours. The reaction mixture was poured into water. To the mixture was added ethyl acetate, and the insoluble material was collected by filtration. The collected solids were washed with water and ethyl acetate, and dried under reduced pressure to give ethyl 4-[2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyphenylamino]-2-methoxypyrimidine-5-carboxylate (91 mg). To this material were added methanol (2 mL) and 1 mol/L aqueous sodium hydroxide solution (0.9 mL), and the mixture was stirred at 50° C. for 1 hour. To the mixture was added tetrahydrofuran (1 mL), and the mixture was stirred at 50° C. for 1 hour. The reaction mixture was cooled to room temperature. To the mixture was added 1 mol/L hydrochloric acid (1.0 mL), and the mixture was stirred for 30 minutes. The precipitated crystals were collected by filtration. The collected crystals were washed with water and diethyl ether, and dried under reduced pressure to give 4-[2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyphenylamino]-2-methoxypyrimidine-5-carboxylic acid (57 mg). To this material were added 1,4-dioxane (1 mL), triethylamine (0.049 mL) and diphenylphosphoryl azide (0.026 mL), and the mixture was stirred at room temperature for 1 hour, and then heated at reflux for 2 hours. The reaction mixture was concentrated under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=1/1−1/5). The product was suspended in a mixed solvent (n-hexane/ethyl acetate=1/1), and collected by filtration. The collected material was washed with the same solvent, and dried under reduced pressure to give the title compound (20 mg).

reactant | ethyl 4-chloro-2-methoxypyrimidine-5-carboxylate | 0.22 g | ClC1=NC(=NC=C1C(=O)OCC)OC | C8H9ClN2O3
reactant | 2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyaniline hydrochloride | 0.4 g | Cl.ClC1=C(N)C=C(C(=C1)OC)OCC1=C(C(=CC=C1OC)F)F
reactant | N,N-diisopropylethylamine | 0.37 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | water | O | H2O
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 4-[2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyphenylamino]-2-methoxypyrimidine-5-carboxylate | 91 mg | ClC1=C(C=C(C(=C1)OC)OCC1=C(C(=CC=C1OC)F)F)NC1=NC(=NC=C1C(=O)OCC)OC | C23H22ClF2N3O6
